US04252804
1-Methyl-4-[N-(3,4,5-trimethoxyphenyl)-carbamoyl]piperazine (hydrochloride)
A solution of 10 g (0.061 mole) 1-methyl-4-chloroformyl-piperazine in 100 ml dry methylene chloride is added to a solution of 11.2 g (0.061 mole) 3,4,5-trimethoxy-aniline in a 100 ml methylenechloride. After stirring at ambient temperature for 24 hours, the solvent is evaporated off in vacuo; the residue is dissolved in the minimum of ethanol and then the crude hydrochloride precipated by the addition of diethyl ether, and dried.

reactant | 1-methyl-4-chloroformyl-piperazine | 0.061 mole, 10 g | CN1CCN(CC1)C(=O)Cl | C6H11ClN2O
reactant | 3,4,5-trimethoxy-aniline | 0.061 mole, 11.2 g | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylenechloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-Methyl-4-[N-(3,4,5-trimethoxyphenyl)-carbamoyl]piperazine | CN1CCN(CC1)C(NC1=CC(=C(C(=C1)OC)OC)OC)=O | C15H23N3O4
